2160-03-08 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2160-3-7**] 04:00 PM
 BLOOD CULTURED - At [**2160-3-7**] 04:00 PM
 URINE CULTURE - At [**2160-3-7**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-8**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 77 (59 - 86) bpm
   BP: 88/48(57) {83/25(43) - 122/61(98)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.1 kg (admission): 69.6 kg
   Height: 65 Inch
             Total In:
                                                                  1,231 mL
                                                                    356 mL
   PO:
             TF:
   IVF:
                                                                  1,231 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  1,055 mL
                                                                    245 mL
   Urine:
                                                                  1,055 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    176 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: WDWN elderly female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 8cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. L base with wheezes but no crackles
   apprecitaed
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No c/c/e. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP dopplerable
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP dopplerable
   Labs / Radiology
   212 K/uL
   10.8 g/dL
   31.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2160-3-8**]  05:33 AM
   WBC
   10.5
   Hct
   31.2
   Plt
   212
   Assessment and Plan
   ASSESSMENT AND PLAN:
   [**Age over 90 **] yo F with h/o HTN presented to after being found down admitted with
   STEMI without intervention now transferred to ICU for hypotension.
   .
   1. Hypotension:
   Patient had low blood pressures on the floor, although she continues to
   mentate appropriately. Etiology of her hypotension is unclear.
   Differential diagnosis includes medication effect, cardiogenic shock,
   sepsis, and dehydration. Regarding medication effect, patient did
   receive 12.5mg metoprolol which is a new medication, in addition to
   lisinopril 20mg daily this morning. It is somewhat unlikely that 12.5mg
   metoprolol is the primary cause of her hypotension, given that 12.5mg
   metoprolol is a relatively small dose and patient is not bradycardic.
   Regarding cardiogenic shock, it does appear that patient had an
   anterior MI given the dynamic changes on her electrocardiogram and
   evidence of apical akinesis, although her extremities are warm and she
   continues to mentate well. Regarding sepsis, patient has no localizing
   evidence of infection and recent UA was consistent with hematuria and
   had no bacteria. Regarding dehydration, patient has had decreased PO
   intake over the last 48-72 hours in the setting of being found down.
   She also had a recent fall, although we have no evidence of bleeding at
   this time. No evidence of tamponade on recent echocardiogram.
   - hold antihypertensive medications for now
   - will follow-up with cardiology regarding need for cardiac
   catheterization; given that she has no symptoms at this time, would
   hold off on cardiac catheterization at this time
   - will follow-up with patient and son regarding aggressive
   interventions at this time and code status
   - 1L NS bolus
   - send UA and urine cultures
   - send blood cultures
   - will treat presumptively for UTI with levofloxacin
   - f/u CXR
   - maintain active T+S
   - maintain 2 PIVs
   - request for PICC line for central access
   - continue dopamine for now to target MAP > 60
   .
   2. STEMI/CAD:
   Patient had STE in anterior distribution V2-V4 now with evolution to
   TWI in same distribution likely of distal LAD. No reciprical changes.
   Positive Troponins and CK peak 1500 in setting of being down which
   could represent mild element of rhabdomyolysis.
   - continue to monitor on tele
   - consider cath if patient is amenable
   - continue full strength asa, high dose statin
   - will consider adding back ACEI and beta blocker once BP improves
   .
   3. Pump:
   Patient is slightly hypovolemic. EF 40-50%. On 20mg lasix as
   outpatient.
   - continue IVF to bolus of 1L
   - monitor on daily I/Os, daily weights
   - hold diuresis
   .
   4. Rhythm:
   Patient is in NSR with a normal rate.
   - monitor on tele
   - monitor daily EKGs or based on changing clinical status
   .
   5. Leukocytosis:
   Patient admitted with WBC of 14, now down to 11 but she is afebrile
   without localizing signs of infection. Etiology is most likely related
   to MI.
   - send urine and blood cultures
   - f/u CXR
   - will treat urinary tract infection presumptively with levofloxacin
   500mg
   .
   6. Anemia:
   Patient hct decrease overnight baseline appears to be 39, down to 35
   with hypotension. No gross evidence of bleeding.
   - maintain active T+S
   - trend hct
   .
   7. GERD:
   Stable, continue PPI
   .
   8. Macular degeneration: stable left eye blindless
   - continue Xalatan 0.005% Eye drops
   .
   #. FEN: Follow and replete electrolytes. Cardiac diet. No IVF at
   present.
   .
   #. Access: PIV, L PICC [**3-7**]
   .
   #. FEN: Cardiac diet, replete lytes prn
   .
   #. PPx: home PPI, fall precautions, bowel regimen prn, subQ hep
   .
   #. Code: presumed full but patient is unclear
   .
   #. Dispo: CCU for now
   .
   #. Communication:  with patient and [**Name (NI) **] [**Name (NI) 6418**] (son)
   [**Telephone/Fax (1) 6419**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-3-7**] 01:15 PM
   22 Gauge - [**2160-3-7**] 04:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-03-09 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2160-3-8**] 01:15 PM
   Dopa stopped and started on neo briefly then weaned off neo around 3pm
   after 2L NS boluses
   HR 50s off dopa so did not give BB; HR previously 50s in prior ECGs and
   vitals sheets
   BP stable overnight off pressors
   S: Pt feels well. No complaints Denies dizziness, SOB, CP,
   lightheadedness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-3-8**] 04:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-9**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 53 (48 - 81) bpm
   BP: 108/43(59) {68/29(39) - 125/53(71)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 69.6 kg
   Height: 65 Inch
                  Total In:
                                                                  3,416 mL
                  PO:
                                                                    930 mL
                  TF:
   IVF:
                                                                  2,486 mL
   Blood products:
   Total out:
                                                                    722 mL
                                                                    120 mL
   Urine:
                                                                    722 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,694 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Gen: WDWN elderly female in NAD. Oriented x3 to date year, month,
   place. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 7cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No w/r/r
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: No c/c. +non pitting edema UEs B/L
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   212 K/uL
   10
   82 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.4 mEq/L
   19 mg/dL
   111 mEq/L
   140 mEq/L
   28.4 %
   7.5 K/uL
        [image002.jpg]  AM Labs not yet done
   Blood, urine cx NGTD
                             [**2160-3-8**]  05:33 AM
                             [**2160-3-8**]  03:15 PM
   WBC
   10.5
   Hct
   31.2
   31.2
   Plt
   212
   Cr
   0.5
   TropT
   0.11
   Glucose
   93
   Other labs: CK / CKMB / Troponin-T:497/6/0.11, Ca++:8.1 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F with h/o HTN initially admitted with STEMI without intervention
   was  transferred to ICU for hypotension now resolved.
   Hypotension:
   Patient was hypotensive on the floor but mentating well. Etiology is
   likely hypovolemia in the setting of being found down and outflow tract
   obstruction in the setting of dopamine.  Hypotension improved with IVF
   and she was weaned off pressors, now off x 15 hours.
   - IVF bolus prn symptomatic hypotension, but currently asymptomatic and
   normotensive
   - continue to hold lisinopril
   - start atenolol 12.5mg daily to maintain heart rate control
   - f/u urine and blood cultures, all NGTD
   STEMI/CAD:
   Patient had STE in anterior distribution V2-V4 now with evolution to
   TWI in same distribution likely of distal LAD. No reciprical changes.
   Positive Troponins and CK peak 1500 in setting of being down which
   could represent mild element of rhabdomyolysis.
   - continue telemetry
   - patient does not want cardiac catherization.
   - continue full strength asa, high dose statin
   - will transition from metoprolol to atenolol 12.5mg daily
   - will consider adding back ACEI once BP improves
   Leukocytosis: resolved
   WBC of 14 on admit, 10.5 today, no localizing signs of infection. most
   likely related to MI and hemoconcentration on admission
   - f/i urine and blood cultures
   - levofloxacin discontinued since no s/s infection and cx no growth
   - f/u final cx data
   Chronic systolic heart failure:
   Patient is hypovolemic. EF 40-50%. On 20mg lasix as outpatient.
   - monitor on daily I/Os, daily weights
   - hold diuresis
   Anemia:
   Patient hct decrease overnight baseline appears to be 39, down to 35
   with hypotension. No gross evidence of bleeding. Irone studies c/w iron
   deficiency. HCT stable
   - maintain active T+S
   - trend hct
   - iron supplements
   GERD:
   Stable, continue PPI
   Macular degeneration: stable left eye blindless
   - continue Xalatan 0.005% Eye drops
   ICU Care
   Nutrition: Follow and replete electrolytes. Cardiac diet. No IVF at
   present.
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-3-7**] 01:15 PM
   22 Gauge - [**2160-3-8**] 07:05 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: home PPI
   VAP:
   Comments: fall precautions
   Communication:  Comments: patient and [**Name (NI) **] [**Name (NI) 6418**] (son)
   [**Telephone/Fax (1) 6419**]
   Code status: No heroic measures, DNR/DNI
   Disposition: Call out to the floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   feels well
   hypotension resolved with d/c of dopamine and fluids
   Physical Examination
   JVP 7
   SEm at the base
   no edema
   Medical Decision Making
   - anterior STEMI, medRx as per pt's wishes
   - hypotension, resolved
   - routine post-MI care, outpt cardiology f/u
   - call out to [**Hospital Ward Name 289**] 3 today, PT consult
   - anticipate d/c in 24 hours
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2160-3-9**] 10:13 ------